US05130119
(a) 4-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethyl-amide]
3.63 g (10 mmol) of 4-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid is suspended in 36 ml of ethyl acetate, 2.38 g (20 mmol) of thionylchloride is added and the suspension is heated to boiling temperature. After 15 minutes a clear solution is present, after 1 hour the formation of the acid chloride is complete. The solution is evaporated to dryness under reduced pressure, the residue is concentrated by evaporation in a vacuum twice with 50 ml of dichloromethane each and the dissolved in 36 ml of dioxane. 1.21 g (12 mmol) of triethylamine and 1.93 g (12 mmol) of 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamine are added to this solution and it is stirred for 5 hours at room temperature. The reaction solution is then evaporated to dryness in a vacuum, the residue is extracted with ethyl acetate, the ethyl acetate extract is concentrated by evaporation in a vacuum and the residue is chromatographed on silica gel 60 (Merck) with ethyl acetate/hexane. 3.19 g (6.3 mmol) =63% of the theoretical yield of the product is obtained as an amorphous solid.

reactant | 4-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid | 10 mmol, 3.63 g | FC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C14H9F4NO4S
reactant | thionylchloride | 20 mmol, 2.38 g | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 12 mmol, 1.21 g | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamine | 12 mmol, 1.93 g | OC(CN)C1OC(OC1)(C)C | C7H15NO3
solvent | ethyl acetate | 36 ml | C(C)(=O)OCC | C4H8O2
product | 4-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzoic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethyl-amide] | OC(CNC(C1=CC=C(C=C1)S(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)=O)C1OC(OC1)(C)C | C21H22F4N2O6S
